US08563575B2
The mixture of 4-(2-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)phenyl trifluoromethanesulfonate (500 mg), 8-quinolineboronic acid (265 mg), Pd(Ph3P)4 (35.4 mg), 2 M Na2CO3 (1.02 mL) and CH3CN (10 mL) was heated at 150° C. for 20 min under microwave irradiation. The mixture was diluted with sat.NaHCO3aq. at 0° C. and extracted with EtOAc. The organic layer was separated, washed with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-50% EtOAc in hexane) to give 3-(4-quinolin-8-ylphenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (410 mg) as white crystals.

reactant | 4-(2-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)phenyl trifluoromethanesulfonate | 500 mg | FC(S(=O)(=O)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=CC2)COCC[Si](C)(C)C)=O)(F)F | C19H22F3N3O5SSi
reactant | 8-quinolineboronic acid | 265 mg | N1=CC=CC2=CC=CC(=C12)B(O)O | C9H8BNO2
reactant | Na2CO3 | 2 M, 1.02 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(Ph3P)4 | 35.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 3-(4-quinolin-8-ylphenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 410 mg | N1=CC=CC2=CC=CC(=C12)C1=CC=C(C=C1)N1C(N(C=2C1=NC=CC2)COCC[Si](C)(C)C)=O | C27H28N4O2Si
